US06441012B1
a) Preparation of Methyl 3-(4-Methoxybenzylthio)-4-nitrophenylacetate
A mixture of methyl 3-fluoro4-nitrophenylacetate(1.05 g), N-methylpyrrolidinone(10 mL) and 4-methoxybenzyl mercaptan was stirred under argon and treated with sodium hydride(0.22 g of a 60% dispersion in mineral oil) and the resulting mixture was stirred at ambient temperature for 0.5 h. Water was added and the mixture was extracted with ether, and the extract was washed with brine, dried and evaporated to dryness. The residue was purified by flash chromatography eluting with increasingly polar mixtures of ethyl acetate and hexane to give the product (1.35 g), [m/e365, (M+NH4)+].

reactant | methyl 3-fluoro4-nitrophenylacetate | 1.05 g | FC=1C=C(C=CC1[N+](=O)[O-])CC(=O)OC | C9H8FNO4
reactant | N-methylpyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
reactant | 4-methoxybenzyl mercaptan | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | sodium hydride | [H-].[Na+]
solvent | Water | O | H2O
product | Methyl 3-(4-Methoxybenzylthio)-4-nitrophenylacetate | 1.35 g | COC1=CC=C(CSC=2C=C(C=CC2[N+](=O)[O-])CC(=O)OC)C=C1 | C17H17NO5S
